US09120749B2
1-(6-Bromo-4-hydroxyquinolin-3-yl)ethanone
To Dowtherm at 250° C. was added Ethyl 2-[(4-bromophenylamino)methylene]-3-oxobutanoate (3.4 g, 10.9 mmol) portionwise and the reaction mixture was stirred for 1.5 h. The reaction mixture was cooled to room temperature, diluted with hexanes and the resulting precipitate was filtered to afford the desired product (2.2 g, 76%) as a brown solid: ESI MS m/z 266 [C11H8BrNO2+H]+.

reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | Ethyl 2-[(4-bromophenylamino)methylene]-3-oxobutanoate | 10.9 mmol, 3.4 g | BrC1=CC=C(C=C1)NC=C(C(=O)OCC)C(C)=O | C13H14BrNO3
product | 1-(6-Bromo-4-hydroxyquinolin-3-yl)ethanone | 2.2 g, 76% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)O | C11H8BrNO2
